US06894061B2
N-[1-(2′,4′-Difluoro-1,1′-biphenyl-2-yl)ethyl]-2,4-dimethoxybenzenesulfonamide
The title compound was prepared from 2,4-dimethoxybenzenesulfonyl chloride (473 mg, 2.0 mmol), 1-(2′,4′-difluoro-1,1′-biphenyl-2-yl)ethylamine (466 mg, 2.0 mmol), and triethylamine (334 μL, 2.2 mmol) according to the procedure and in the same manner as described in Example 105, step c. The product was purified by preparative liquid chromatography on a Biotage® 40Mi column of prepacked column of silica gel (90 g), eluting with a gradient of 30%-50% methyl tert-butyl ether in hexane (35 min), to afford the desired compound (600 mg, 69%) as a white solid;

reactant | 2,4-dimethoxybenzenesulfonyl chloride | 2.0 mmol, 473 mg | COC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | 1-(2′,4′-difluoro-1,1′-biphenyl-2-yl)ethylamine | 2.0 mmol, 466 mg | FC1=C(C=CC(=C1)F)C1=C(C=CC=C1)C(C)N | C14H13F2N
reactant | triethylamine | 2.2 mmol, 334 μL | C(C)N(CC)CC | C6H15N
product | N-[1-(2′,4′-Difluoro-1,1′-biphenyl-2-yl)ethyl]-2,4-dimethoxybenzenesulfonamide | 600 mg, 69% | FC1=C(C=CC(=C1)F)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=C(C=C(C=C1)OC)OC | C22H21F2NO4S
